US08487102B2
e) [1-Benzyl-4-(4-fluoro-2-methyl-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-methyl-amine
To a solution of [1-benzyl-4-(4-fluoro-2-methyl-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-carbamic acid tert-butyl ester (2.6 g, 6.01 mmol) in DMF (50 mL) at 0° C. was added NaH (0.462 g, 50% purity, 9.62 mmol). After 20 minutes, iodomethane (1.54 g, 10.8 mmol) was added and the temperature raised to RT. The reaction was quenched by addition of H2O and the product extracted with EtOAc. The combined organic phases were dried over Na2SO4, and concentrated under vacuo to give a crude intermediate which was used directly in the next step without further purification. This residue as dissolved in CH2Cl2 (50 mL) and TFA (15 mL) was added. The reaction mixture was heated at 30° C. for 2 hours, diluted with CH2Cl2 (100 mL) and aqueous NaOH (1N) was added until pH reached 8. The organic phase was dried over Na2SO4, concentrated under vacuo to give the title product 2.24 g (97%) with high purity (no further purification needed) as a light yellow solid. ES-MS m/e: 347.3 (M+H+).

reactant | [1-benzyl-4-(4-fluoro-2-methyl-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-carbamic acid tert-butyl ester | 6.01 mmol, 2.6 g | C(C)(C)(C)OC(NC=1C(=C2C(=NC1)N(N=C2)CC2=CC=CC=C2)C2=C(C=C(C=C2)F)C)=O | C25H25FN4O2
reactant | NaH | 9.62 mmol, 0.462 g | [H-].[Na+]
reactant | iodomethane | 10.8 mmol, 1.54 g | IC | CH3I
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | [1-Benzyl-4-(4-fluoro-2-methyl-phenyl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-methyl-amine | 2.24 g, 97% | C(C1=CC=CC=C1)N1N=CC=2C1=NC=C(C2C2=C(C=C(C=C2)F)C)NC | C21H19FN4
